US04462943
To a stirred suspension of cis-4-(4-fluorophenoxy)-L-proline (which can be prepared as set forth by Ondetti et al. in Example 36 of U.K. patent application No. 2,028,327) (250 mg., 11 mmole) in 70 ml. of methanol at -30° under argon, there is added 8.09 ml. (10 eq.) of thionyl chloride. After stirring at -20° for 2 hours, the cold bath is removed and the mixture is stirred at room temperature for 16 hours. The solvent is removed at reduced pressure and the residue is dissolved in 150 ml. of dichloromethane. The resulting solution is washed with 1N sodium bicarbonate (twice) and water. After drying (MgSO4), the solution is treated with excess hydrochloric acid and then concentrated at reduced pressure. Recrystallization from methanol/ether gives 1.49 g. of product. The mother liquors yield an additional 0.5 g. of product so that a total of 1.99 g. of cis-4-(4-fluorophenoxy)-L-proline, methyl ester, hydrochloride is obtained; m.p. 147°-148° (s. 144°); [α]D20 =+6.96° (c=1.55, methanol).

reactant | cis-4-(4-fluorophenoxy)-L-proline | FC1=CC=C(O[C@H]2C[C@H](NC2)C(=O)O)C=C1 | C11H12FNO3
reactant | thionyl chloride | 10 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | cis-4-(4-fluorophenoxy)-L-proline, methyl ester, hydrochloride | Cl.FC1=CC=C(O[C@H]2C[C@H](NC2)C(=O)OC)C=C1 | InChI=1S/C12H14FNO3.ClH/c1-16-12(15)11-6-10(7-14-11)17-9-4-2-8(13)3-5-9;/h2-5,10-11,14H,6-7H2,1H3;1H/t10-,11-;/m0./s1
